* Untitled.oregano
*----------------------------------------------
*	ngspice - NETLIST
.options OUT=120 
*------------- Models -------------------------
*------------- Circuit Description-------------
L_Le 6 5 1H
V_V1 3 0 dc 0.0 ac 0.0 sin(0.0 1.0 1.0 0 0)
C_C3 2 0 1u IC=0
R_R2 6 2 1k
C_C2 1 6 1u IC=0
L_L2 3 1 1H
R_Re 5 4 8
R_Rl 4 0 

*----------------------------------------------
.tran 1.000000e-04 5.000000e-03 0.000000e+00
.print tran  v(6)

.op

.END
