* Untitled.oregano
*----------------------------------------------
*	ngspice - NETLIST
.options OUT=120 
*------------- Models -------------------------
*------------- Circuit Description-------------
L_Le 2 6 0.56m
R_Rz 2 3 6.2
C_Cz 3 0 0.0156u IC=0
C_C1 1 0 0.2487u IC=0
V_V1 4 0 dc 0.0 ac 0.0 sin(0.0 1.0 1.0 0 0)
L_L1 4 1 15.9m
R_Re 6 5 6.2
R_Rl 5 0 

*----------------------------------------------
.tran 1.000000e-04 5.000000e-03 0.000000e+00
.print tran  v(2)

.op

.END
