subwoofer
*----------------------------------------------
*	GNUCAP - NETLIST
.options OUT=120 
*------------- Models -------------------------
*------------- Circuit Description-------------
L_Le 2 6 0.56m
R_Rz 2 3 6.2
C_Cz 3 0 0.0156u
C_C1 1 0 0.2487u
*V_V1 4 0 dc 0.0 ac 1.0 *sin(0.0 1.0 1.0 0 0)
V_V1 4 0 ac 1 
L_L1 4 1 15.9m
R_Re 6 5 6.2
R_Rl 5 0 8

* Wire node 1 to 2
Rwire 1 2 1m

* Source Description
* V_node 2 0
*----------------------------------------------
*.print dc  v(5)
*.dc V1 0 0 0
.print op v(nodes)
.op
*.print tran  v(5)
*.tran 0.005 0.0001
.ac dec 1000 20 3k
.print ac v(5)
.end
